US06579875B1
d) N-[6-Chloro-5-(pyrrolidin-1-yl)-pyridazin-3-yl]-N′-(2,4-difluorobenzylidene)hydrazine
3-Chloro-6-hydrazino-4-(pyrrolidin-1-yl)pyridazine (1.06 g, 4.9 mmol) and 2,4-difluorobenzaldehyde (437 ml, 4.9 mmol) were stirred in 0.2M hydrochloric acid (30 ml) for 2 hours. The precipitated imine was then collected by filtration and dried (1.37 g, 92%). MS (ES+) 338 [MH]+, 340 [MH]+.

reactant | 3-Chloro-6-hydrazino-4-(pyrrolidin-1-yl)pyridazine | 4.9 mmol, 1.06 g | ClC=1N=NC(=CC1N1CCCC1)NN | C8H12ClN5
reactant | 2,4-difluorobenzaldehyde | 4.9 mmol, 437 ml | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
solvent | hydrochloric acid | 0.2M, 30 ml | Cl | ClH
product | N-[6-Chloro-5-(pyrrolidin-1-yl)-pyridazin-3-yl]-N′-(2,4-difluorobenzylidene)hydrazine | ClC1=C(C=C(N=N1)NN=CC1=C(C=C(C=C1)F)F)N1CCCC1 | C15H14ClF2N5
